US06251910B1
a) 2-[[(1S-cis)-4-azido-2-cyclopenten-1-yl]oxy]acetic acid, 1,1-dimethylethyl ester
(1S-cis)-4-Azido-2-cyclopenten-1-ol (3.4 g) (prepared as described by D. R. Deardorff et al., J. Org. Chem, 1989, 54, 2759) in tetrahydrofuran (60 ml) was added dropwise to a suspension of sodium hydride (1.1 g. of a 60% suspension in oil) in tetrahydrofuran (60 ml) at 0° C. On completion of the addition the mixture was allowed to warm to ambient temperature the added dropwise to a solution of tert-butyl bromoacetate (10.1 ml) in tetrahydrofuran (60 ml) at 0° C. Water (200 ml) was added and the product extracted into ethyl acetate (200 ml) then dried and concentrated. Purification (SiO2, ethyl acetate:isohexane,10:90, as eluent) afforded the subtitle compound (3.6 g).

reactant | (1S-cis)-4-Azido-2-cyclopenten-1-ol | 3.4 g | N(=[N+]=[N-])[C@H]1C=C[C@H](C1)O | C5H7N3O
reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyl bromoacetate | 10.1 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Water | 200 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-[[(1S-cis)-4-azido-2-cyclopenten-1-yl]oxy]acetic acid, 1,1-dimethylethyl ester | 3.6 g | N(=[N+]=[N-])[C@H]1C=C[C@H](C1)OCC(=O)OC(C)(C)C | C11H17N3O3
